US07667041B2
IPEA (0.5 mL), EDC (128 mg) and HOBT (90.4 mg) were added to a solution of 5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid trifluoroacetate (100 mg) and 1-o-tolylethylamine (60 mg) in DMF (5 mL), and the reaction solution was stirred at room temperature for 1 hour. Water and ethyl acetate were added to the reaction solution and the organic layer was partitioned. The resulting organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (Carrier: Chromatorex™ NH, elution solvent:heptane-ethyl acetate system→ethyl acetate-methanol system) to obtain 5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid (1-o-tolylethyl)amide. Sodium hydride (containing mineral oil at 40%, 50 mg) was added to a solution of the resulting 5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid (1-o-tolylethyl)amide in DMF (4 mL), and the reaction solution was stirred at room temperature for 10 minutes. Water and ethyl acetate were added to the reaction solution and the organic layer was partitioned. The resulting organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (Carrier: Chromatorex™ NH, elution solvent:heptane-ethyl acetate system→ethyl acetate-methanol system) to obtain 60 mg of the title compound as a racemate. The compound (10 mg) was fractionated using CHIRALPAK™ AD-H manufactured by Daicel Chemical Industries, Ltd. (2 cm×25 cm: mobile phase: hexane:ethanol=7:3) to obtain the title optically active substance with a retention time of 39 minutes (4.4 mg; >99% ee) and the title optically active substance with a retention time of 48 minutes (4.4 mg; >99% ee). The physical properties of the compounds are as follows.

reactant | IPEA | 0.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HOBT | 90.4 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid trifluoroacetate | 100 mg | FC(C(=O)O)(F)F.ClCCCC(C(=O)O)=CC1=CC(=C(C=C1)N1C=NC(=C1)C)OC
reactant | 1-o-tolylethylamine | 60 mg | C1(=C(C=CC=C1)C(C)N)C | C9H13N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | EDC | 128 mg
product | 5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid (1-o-tolylethyl)amide | C1(=C(C=CC=C1)C(C)NC(C(CCCCl)=CC1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O)C | C26H30ClN3O2
